US04719036
18.5 parts of diethyl 3-(benzothiazol-2-ylthio)-propane- 1,2-dicarboxylate are stirred with 31.1 parts cyclohexylamine for 12 hours at 95° C. The mixture is cooled and toluene added with stirring. The resulting solid is filtered off, washed with toluene and dried to give N,N'-dicyclohexyl 3-(benzothiazol-2-ylthio)-1,2-propane dicarboxylic acid diamide, melting at 147°-49° C.

reactant | diethyl 3-(benzothiazol-2-ylthio)-propane- 1,2-dicarboxylate | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)OCC)C(=O)OCC | C16H19NO4S2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N'-dicyclohexyl 3-(benzothiazol-2-ylthio)-1,2-propane dicarboxylic acid diamide | C1(CCCCC1)NC(=O)CC(CSC=1SC2=C(N1)C=CC=C2)C(=O)NC2CCCCC2 | C24H33N3O2S2
